US06699995B1
2-(2-Methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropanol
Methyl 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropionate (1.00 g) was dissolved in toluene (15 mL). To the obtained solution was added dropwise a mixture of a 70% solution (1.20 g) of sodium bis(2-methoxyethoxy)aluminum hydride in toluene and toluene (5 mL) at 0° C., and the mixture was stirred at 0° C. for 30 min. To the reaction mixture was carefully added a 10% aqueous solution (50 mL) of potassium sodium (+)-tartrate tetrahydrate, and the mixture was stirred at room temperature for 1 h. The precipitated crystals were collected by filtration, washed successively with a 10% aqueous solution of potassium sodium (+)-tartrate tetrahydrate, pure water and isopropyl ether, and air-dried to give the title compound as crystals (0.75 g, 81%). Recrystallization from ethyl acetate-isopropyl ether gave pale-yellow prism crystals. melting point: 127-129° C.

reactant | Methyl 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropionate | 1.00 g | CC=1N(C=CN1)C=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OC | C18H16F3N3O3
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | potassium sodium (+)-tartrate tetrahydrate | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropanol | 0.75 g, 81% | CC=1N(C=CN1)C=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCCO | C17H16F3N3O2
